US06229011B1
To a suspension of 4-nitro-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine (226.2 mmol, 70.2 g) and sodium carbonate (1.13 mmol, 95 g) in DMF (500 mL) was added methyl iodide (1.13 mmol, 70.4 mL) at room temperature. The suspension was stirred for 15 h at room temperature at this time TLC analysis of the mixture indicated the absence of starting acid and the excess methyl iodide and some DMF were removed under high vacuum. The mixture was poured into water (2 L) and stirred at room temperature as a precipitate formed slowly over weekend. The precipitated solids were collected by filtration and washed with water (2 L). After air and vacuum drying, 72 g (98%) of of 4-nitro-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester was isolated as a light yellow solid. mp 95-96° C. 1H NMR, DMSO-d6 (400 MHz) δ8.16 (d, 2H, J=20 Hz), 7.53 (d, 2H, J=20 Hz), 7.39 (d, 1H, J=22 Hz), 4.26-4.28 (m, 1H), 3.6 (s, 3H), 2.96-3.19 (m, 2H), 1.25 (s, 9H), 13C NMR, CDCl3 (100 Mhz) d 172.04, 155.29, 146.27, 145.96, 130.48, 123.18, 78.36, 54.44, 51.9, 36.1, 27.99. HR MS: Obs. mass. 325.1404. Calcd. mass, 325.1400 (M+H).

reactant | 4-nitro-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine | 226.2 mmol, 70.2 g | [N+](=O)([O-])C1=CC=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)O)C=C1 | C14H18N2O6
reactant | sodium carbonate | 1.13 mmol, 95 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 1.13 mmol, 70.4 mL | CI | CH3I
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 4-nitro-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H20N2O6
